US05272234
0.125 mole of n-hexylbromide was dissolved in 40 ml of ethyl ether. Then, 10 ml of ethyl ether was added in drops and also 0.13 mole of magnesium chip was added. The mixture was refluxed for 5 to 6 hours and the Grignard agent was obtained. The Grignard reagent was added to a solution consisting of 70 mg of NiDPPPCl2 and 0.106 mole of 3-bromo thiophene in drops at 0° c, then the mixture was refluxed for 12 to 15 hours. After that, the mixture was hydrolyzed with 40 ml of 1 N hydrochloric acid and 150 ml of ice water. Then, ethyl ether was used to extract the mixture for a few times, and the mixture was washed with water until the solution was neutral. The extract was dried by sodium sulfate to remove the solvent. The product of 3-hexylthiophene was obtained with a yield of 65% after distillation under reduced pressure.

reactant | n-hexylbromide | 0.125 mole | C(CCCCC)Br | C6H13Br
reactant | magnesium | 0.13 mole | [Mg] | Mg
reactant | 3-bromo thiophene | 0.106 mole | BrC1=CSC=C1 | C4H3BrS
reactant | hydrochloric acid | 1 N, 40 ml | Cl | ClH
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-hexylthiophene | yield of 65% | C(CCCCC)C1=CSC=C1 | C10H16S
